### PR TITLE
BLAKE3 finalizeChunk circuit

### PR DESCRIPTION
**Pull request by pirapira**
This PR implements and verifies a circuit for `finalizeChunk` function in the BLAKE3 spec.

This is a part of #250.

### CODE REVIEW

File: Clean/Types/U32.lean [hunk 1]
```diff
@@ -208,6 +208,12 @@ lemma value_of_literal (a b c d : F p) :
   (U32.mk a b c d).value =
     a.val + b.val * 256 + c.val * 256^2 + d.val * 256^3 := by rfl
 
+omit [Fact (Nat.Prime p)] p_large_enough in
+@[circuit_norm]
+lemma value_of_literal' (a b c d : field (F p)) :
+  @U32.value p (@U32.mk (field (F p)) a b c d)  =
```
Comment (mitschabaude) [inline Clean/Types/U32.lean]: ah nice, is that what made simp apply the lemma?
nit: are the `@` and implicit params needed?

File: Clean/Types/U32.lean [hunk 2]
```diff
@@ -218,15 +224,15 @@ lemma eval_of_literal (env : Environment (F p)) (a b c d : Var field (F p)) :
 omit p_large_enough in
 omit [Fact (Nat.Prime p)] in
 @[circuit_norm]
-lemma normalized_componentwise (a b c d : F p):
+lemma Normalized_componentwise (a b c d : F p):
```
Comment (mitschabaude) [inline Clean/Types/U32.lean]: revert

File: Clean/Types/U32.lean [hunk 3]
```diff
@@ -218,15 +224,15 @@ lemma eval_of_literal (env : Environment (F p)) (a b c d : Var field (F p)) :
...
     (U32.mk a b c d).Normalized ↔
     (a.val < 256 ∧ b.val < 256 ∧ c.val < 256 ∧ d.val < 256) := by
   simp only [explicit_provable_type, circuit_norm, U32.Normalized]
 
 omit p_large_enough in
 omit [Fact (Nat.Prime p)] in
 @[circuit_norm]
-lemma normalized_componentwise' (a b c d : field (F p)):
+lemma Normalized_componentwise' (a b c d : field (F p)):
```
Comment (mitschabaude) [inline Clean/Types/U32.lean]: revert

File: Clean/Gadgets/BLAKE3/FinalizeChunk.lean [hunk 4]
```diff
@@ -0,0 +1,423 @@
...
+  have h0 := h_bytes (i*4)
+  have h1 := h_bytes (i*4 + 1)
+  have h2 := h_bytes (i*4 + 2)
+  have h3 := h_bytes (i*4 + 3)
+  simp only [circuit_norm, eval_vector] at h0 h1 h2 h3 ⊢
+  simp only [Vector.getElem_ofFn, U32.Normalized, explicit_provable_type, toVars]
+  simp only [Vector.map_mk, List.map_toArray, List.map_cons, List.map_nil]
+  simp only [Fin.val_mul, Fin.val_add, Fin.val_natCast, Fin.val_ofNat', Nat.mod_eq_of_lt] at h0 h1 h2 h3
+  simp only [id_eq, Fin.isValue, Nat.mod_mul_mod, Fin.val_one, Nat.mod_add_mod, Fin.val_two] at h0 h1 h2 h3
+  constructor
```
Comment (mitschabaude) [inline Clean/Gadgets/BLAKE3/FinalizeChunk.lean]: nit: instead of repeated `constructor` you can use `and_intros` which gives you all individual goals at once

**Review by mitschabaude — APPROVED** [review]
💪🏻 

just a few comments

File: Clean/Types/U32.lean (hunk 1 above)
Comment (pirapira) [reply Clean/Types/U32.lean]: It looks like
```
{ x0 := 0, x1 := 0, x2 := 0, x3 := 0 }.value
```
where `0`s are `field (F p)`.

The `@` wasn't needed, not even `(T:=field (F p))`.

File: Clean/Types/U32.lean (hunk 3 above)
Comment (pirapira) [reply Clean/Types/U32.lean]: oops, fixed

File: Clean/Types/U32.lean (hunk 2 above)
Comment (pirapira) [reply Clean/Types/U32.lean]: oops, fixed

File: Clean/Gadgets/BLAKE3/FinalizeChunk.lean (hunk 4 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/FinalizeChunk.lean]: done
